US07482354B2
8-[(aminocarbonyl)amino]-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B00-X02-M00(C01)-D03]
A suspension of 0.20 g (0.63 mmol) of ethyl 8-[(aminocarbonyl)amino]-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate in 15 mL of a mixture methanol/dimethylformamide/ammonium hydroxide 30% 1/1/1 was stirred in a close bottle at 65° C. for 48 hours. The solvent was then evaporated under reduced pressure, the residue redissolved with a mixture dichloromethane/methanol 9/1 and washed with water. The organic layer was dried over anhydrous Na2SO4 and evaporated to dryness. The product was purified by chromatography on a silica gel column (eluant dichloromethane/acetone/methanol) giving 0.09 g (50% yield) of the title compound.

reactant | ethyl 8-[(aminocarbonyl)amino]-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.63 mmol, 0.20 g | NC(=O)NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C14H14N6O3
reactant | methanol dimethylformamide ammonium hydroxide | CO.CN(C=O)C.[OH-].[NH4+]
product | 8-[(aminocarbonyl)amino]-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.09 g, 50% yield | NC(=O)NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)N | C12H11N7O2
